US06211234B1
A mixture of 3-benzyloxyphenol (3 g), ethyl (RS)-4-chloro-4-phenylbutanoate (4.53 g), potassium carbonate (4.14 g), potassium iodide (100 mg) and methyl ethyl ketone (100 mL) is heated at reflux for 40 hours. The mixture is evaporated to dryness and the residue is partitioned between ethyl acetate (200 mL) and water (200 mL). The organic layer is dried over magnesium sulphate, filtered, and concentrated in vacuo. Flash chromatography of the resulting oil, eluting with a mixture of ethyl acetate and cyclohexane (1:19 v/v), gives ethyl (RS)-4-(3-benzyloxyphenoxy)-4-phenylbutanoate (1 g), in the form of a yellow oil.

reactant | 3-benzyloxyphenol | 3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
reactant | ethyl (RS)-4-chloro-4-phenylbutanoate | 4.53 g | ClC(CCC(=O)OCC)C1=CC=CC=C1 | C12H15ClO2
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 100 mg | [I-].[K+]
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
product | ethyl (RS)-4-(3-benzyloxyphenoxy)-4-phenylbutanoate | 1 g | C(C1=CC=CC=C1)OC=1C=C(OC(CCC(=O)OCC)C2=CC=CC=C2)C=CC1 | C25H26O4
